### PR TITLE
feat: (approximate) inverses of dyadic rationals

### PR DESCRIPTION
**Pull request by kim-em**
This PR adds the inverse of a dyadic rational, at a given precision, and characterising lemmas. Also cleans up various parts of the `Int.DivMod` and `Rat` APIs, and proves some characterising lemmas about `Rat.toDyadic`.

### CODE REVIEW

File: src/Init/Data/Dyadic/Basic.lean [hunk 1]
```diff
@@ -481,8 +568,8 @@ theorem toDyadic_toRat (x : Dyadic) (prec : Int) :
     · simp
     · simp
```
Comment (Rob23oba) [inline src/Init/Data/Dyadic/Basic.lean]: Oh I just noticed this non-terminal simp; this one might be my fault; could you clean it up?

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- 💥 Mathlib branch [lean-pr-testing-10194](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-10194) build failed against this PR. (2025-09-01 08:09:48) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/17371324637)
- 💥 Mathlib branch [lean-pr-testing-10194](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-10194) build failed against this PR. (2025-09-01 12:29:25) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/17377276563)
- 💥 Mathlib branch [lean-pr-testing-10194](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-10194) build failed against this PR. (2025-09-01 16:27:54) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/17382739410)
- 💥 Mathlib branch [lean-pr-testing-10194](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-10194) build failed against this PR. (2025-09-01 18:57:41) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/17385104365)
- 💥 Mathlib branch [lean-pr-testing-10194](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-10194) build failed against this PR. (2025-09-02 04:09:22) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/17392524816)
- 💥 Mathlib branch [lean-pr-testing-10194](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-10194) build failed against this PR. (2025-09-03 10:43:10) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/17430298620)
- 💥 Mathlib branch [lean-pr-testing-10194](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-10194) build failed against this PR. (2025-09-03 10:59:55) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/17431002254)
- 🟡 Mathlib branch [lean-pr-testing-10194](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-10194) build against this PR was cancelled. (2025-09-03 11:27:23) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/17431488066)
- ✅ Mathlib branch [lean-pr-testing-10194](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-10194) has successfully built against this PR. (2025-09-03 12:33:42) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/17431948967)
- 🟡 Mathlib branch [lean-pr-testing-10194](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-10194) build against this PR was cancelled. (2025-09-03 15:40:14) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/17438501042)
- ✅ Mathlib branch [lean-pr-testing-10194](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-10194) has successfully built against this PR. (2025-09-03 16:39:28) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/17438621384)

File: src/Init/Data/Int/DivMod/Bootstrap.lean [hunk 2]
```diff
@@ -111,19 +111,35 @@ where
...
-theorem ediv_add_emod' (a b : Int) : a / b * b + a % b = a := by
-  rw [Int.mul_comm]; exact ediv_add_emod ..
+@[deprecated emod_add_ediv_mul (since := "2025-09-01")]
+def emod_add_ediv' := @emod_add_mul_ediv
+
+theorem mul_ediv_add_emod (a b : Int) : b * (a / b) + a % b = a := by
+  rw [Int.add_comm]; exact emod_add_mul_ediv ..
+
+@[deprecated mul_ediv_add_emod (since := "2025-09-01")]
+def ediv_add_emod := @emod_add_mul_ediv
```
Comment (Rob23oba) [inline src/Init/Data/Int/DivMod/Bootstrap.lean]:
```suggestion
def ediv_add_emod := @mul_ediv_add_emod
```

File: src/Init/Data/Int/DivMod/Bootstrap.lean [hunk 3]
```diff
@@ -111,19 +111,35 @@ where
...
-theorem ediv_add_emod (a b : Int) : b * (a / b) + a % b = a := by
-  rw [Int.add_comm]; exact emod_add_ediv ..
+theorem emod_add_ediv_mul (a b : Int) : a % b + a / b * b = a := by
+  rw [Int.mul_comm]; exact emod_add_mul_ediv ..
 
-/-- Variant of `ediv_add_emod` with the multiplication written the other way around. -/
-theorem ediv_add_emod' (a b : Int) : a / b * b + a % b = a := by
-  rw [Int.mul_comm]; exact ediv_add_emod ..
+@[deprecated emod_add_ediv_mul (since := "2025-09-01")]
+def emod_add_ediv' := @emod_add_mul_ediv
```
Comment (Rob23oba) [inline src/Init/Data/Int/DivMod/Bootstrap.lean]:
```suggestion
def emod_add_ediv' := @emod_add_ediv_mul
```

File: src/Init/Data/Int/DivMod/Bootstrap.lean [hunk 4]
```diff
@@ -111,19 +111,35 @@ where
...
+  rw [Int.add_comm]; exact emod_add_mul_ediv ..
+
+@[deprecated mul_ediv_add_emod (since := "2025-09-01")]
+def ediv_add_emod := @emod_add_mul_ediv
+
+theorem ediv_mul_add_emod (a b : Int) : a / b * b + a % b = a := by
+  rw [Int.mul_comm]; exact mul_ediv_add_emod ..
+
+@[deprecated mul_ediv_add_emod (since := "2025-09-01")]
+def ediv_add_emod' := @emod_add_mul_ediv
```
Comment (Rob23oba) [inline src/Init/Data/Int/DivMod/Bootstrap.lean]:
```suggestion
def ediv_add_emod' := @mul_ediv_add_emod
```

**Review by Rob23oba — CHANGES_REQUESTED** [review]
Fix deprecations

File: src/Init/Data/Int/DivMod/Bootstrap.lean [hunk 5]
```diff
@@ -111,19 +111,35 @@ where
...
+  rw [Int.add_comm]; exact emod_add_mul_ediv ..
+
+@[deprecated mul_ediv_add_emod (since := "2025-09-01")]
+def ediv_add_emod := @mul_ediv_add_emod
+
+theorem ediv_mul_add_emod (a b : Int) : a / b * b + a % b = a := by
+  rw [Int.mul_comm]; exact mul_ediv_add_emod ..
+
+@[deprecated mul_ediv_add_emod (since := "2025-09-01")]
+def ediv_add_emod' := @mul_ediv_add_emod
```
Comment (Rob23oba) [inline src/Init/Data/Int/DivMod/Bootstrap.lean]:
```suggestion
@[deprecated ediv_mul_add_emod (since := "2025-09-01")]
def ediv_add_emod' := @ediv_mul_add_emod
```
oops missed that one

File: src/Init/Data/Int/Order.lean [hunk 6]
```diff
@@ -701,10 +701,15 @@ theorem toNat_sub_toNat_neg : ∀ n : Int, ↑n.toNat - ↑(-n).toNat = n
...
 
-@[simp] theorem toNat_neg_nat : ∀ n : Nat, (-(n : Int)).toNat = 0
+@[simp] theorem toNat_neg_natCast : ∀ n : Nat, (-(n : Int)).toNat = 0
   | 0 => rfl
   | _+1 => rfl
 
+@[deprecated toNat_neg_natCast (since := "2025-08-29")]
+theorem toNat_neg_nat : ∀ n : Nat, (-(n : Int)).toNat = 0 := toNat_neg_natCast
+
+@[simp] theorem toNat_neg_negSucc (n : Nat) : (- -[n+1]).toNat = n + 1 := rfl
```
Comment (Rob23oba) [inline src/Init/Data/Int/Order.lean]: Maybe it's worth tagging `neg_negSucc` as `simp` instead?

File: src/Init/Data/Rat/Lemmas.lean [hunk 7]
```diff
@@ -935,3 +1006,63 @@ theorem intCast_nonpos {a : Int} :
...
+  apply Int.ediv_mul_le _ (by simpa using a.den_nz)
+
+theorem lt_floor_add_one (a : Rat) : a < ((a.floor + 1 : Int): Rat) := by
+  rw [floor_def, Rat.lt_iff]
+  have : a.num / ↑a.den + 1 = (a.num + ↑a.den) / ↑a.den := by
+    rw [Int.add_ediv_of_dvd_right] <;> simp [a.den_nz]
+  simp [this]
+  simpa using Int.lt_ediv_mul (a.num + a.den) (b := a.den) (by have := a.den_nz; omega)
+
+theorem le_floor_iff (x : Int) (a : Rat) : x ≤ a.floor ↔ (x : Rat) ≤ a := by
```
Comment (Rob23oba) [inline src/Init/Data/Rat/Lemmas.lean]: I feel like `iff`s should have implicit parameters where possible for a nice `le_floor_iff.mp` (same for `floor_lt_iff`)

File: src/Init/Data/Rat/Lemmas.lean [hunk 8]
```diff
@@ -935,3 +1006,63 @@ theorem intCast_nonpos {a : Int} :
 theorem intCast_neg_iff {a : Int} :
     (a : Rat) < 0 ↔ a < 0 :=
   Rat.intCast_lt_intCast
+
+theorem floor_def (a : Rat) : a.floor = a.num / a.den := by
```
Comment (Rob23oba) [inline src/Init/Data/Rat/Lemmas.lean:1010]: This one is in conflict with
```lean-4
protected theorem floor_def {q : ℚ} : ⌊q⌋ = q.num / q.den
```
compare with:
```lean-4
protected theorem floor_def' {q : ℚ} : q.floor = q.num / q.den
```
Maybe we should swap this now? I expect most lemmas about `⌊_⌋` to be in the `Int` namespace anyways so it's probably fine to make `floor` and `ceil` lemmas in the `Rat` namespace more focused on `Rat.floor` and `Rat.ceil`.

File: src/Init/Data/Rat/Lemmas.lean (hunk 7 above)
Comment (kim-em) [reply src/Init/Data/Rat/Lemmas.lean]: I agree this is the convention (but one I've always been somewhat dubious of!). I've fixed these.

File: src/Init/Data/Rat/Lemmas.lean (hunk 8 above)
Comment (kim-em) [reply src/Init/Data/Rat/Lemmas.lean:1010]: Let's leave as is and rename in mathlib.

File: src/Init/Data/Int/Order.lean (hunk 6 above)
Comment (kim-em) [reply src/Init/Data/Int/Order.lean]: Good suggestion. I've removed this silly lemma. :-)
